* source APPENDIX B-PS.14
Q_G1_QNOR         0 G1_N22108 N32986 QECL
Q_G1_Q1         0 G1_N21790 G1_R QECL
Q_G1_QOR         0 G1_N22118 N32962 QECL
Q_G1_Q2         G1_N21790 G1_N21790 G1_N21876 QECL
R_G1_Ra         VEE1 N18730  {Ra}  
Q_G1_Q3         G1_N21876 G1_N21876 G1_N219280 QECL
R_G1_{R1}         G1_N21790 0  {R1}  
R_G1_Rc1         G1_N22108 0  {Rc1}  
R_G1_R3         VEE1 G1_R  {R3}  
Q_G1_QA         G1_N22108 N18730 G1_N22254 QECL
R_G1_Rc2         G1_N22118 0  {Rc2}  
R_G1_Rb         VEE1 N18566  {Rb}  
Q_G1_QB         G1_N22108 N18566 G1_N22254 QECL
R_G1_Re         VEE1 G1_N22254  {Re}  
Q_G1_QR         G1_N22118 G1_R G1_N22254 QECL
R_G1_R2         VEE1 G1_N219280  {R2}  
V_Vsupply2         0 VEE1 {VEE1}
V_Vb         N18566 0 DC -1.77Vdc AC 1Vac 
R_Rt3         VEE2 N32962  {Rt1}  
V_Va         N18730 0 DC -1.32Vdc AC 1Vac 
R_Rt2         VEE2 N32986  {Rt2}  
V_Vsupply1         0 VEE2 {VEE2}
.PARAM  R1=907 Re=779 R2=4.98K R3=6.1K VEE1=5.2 VEE2=2 Rt1=50 Ra=50K Rc1=220
+  Rt2=50 Rb=50K Rc2=245
